US05574055
(RS)-5-Methoxymethyl-3-[4-(4-methylene-cyclohexyl)-phenyl]-oxazolidin-2-one
5.76 g (13.8mmol) of methyltriphenylphosphonium bromide/sodium amide mixture were stirred at room temperature under argon in 170 ml of tetrahydrofuran for 1 hour. Then, a solution of 4.20 g (13.8 mmol) of (RS)-3-[4-(4-oxo-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one was added dropwise within 5 minutes. After boiling under reflux overnight the mixture was poured into water and extracted with methylene chloride. After drying with sodium sulfate and concentrating the residue was chromatographed over silica gel with ethyl acetate/n-hexane (1:2). 3.47 g (83%) of a solid were obtained. A small sample was recrystallized from hexane. M.p.: 63°-65°.

reactant | methyltriphenylphosphonium bromide sodium amide | 13.8mmol, 5.76 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | (RS)-3-[4-(4-oxo-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 13.8 mmol, 4.20 g | O=C1CCC(CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C17H21NO4
reactant | water | O | H2O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | (RS)-5-Methoxymethyl-3-[4-(4-methylene-cyclohexyl)-phenyl]-oxazolidin-2-one | 3.47 g, 83% | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=C | C18H23NO3
